US07595312B2
1i (S)-2-(4-amino-3-chloro-5-trifluoromethyl-benzyl) 1-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-4-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-yl]-butan-1,4-dione
A mixture of 6.3 g (12.8 mmol) of (S)-3-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-4-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-4-oxo-butanoic acid, 3.16 g (12.9 mmol) of 3-piperidin-4-yl-1,3,4,5-tetrahydro-1,3-benzodiazepin-2-one, 4.66 g (14.5 mmol) of TBTU, 1.96 g (14.5 mmol) of HOBt, 9.45 mL (68 mmol) of triethylamine and 300 mL DMF was stirred for 12 h at RT. The reaction mixture was evaporated down i. vac., the residue was distributed between EtOAc and saturated NaHCO3 solution. The org. phase was separated off, dried and evaporated down i. vac. The residue was purified by chromatography on silica gel. The yellow oil obtained was triturated with ether and suction filtered. The desired product was obtained in the form of a white solid.

reactant | (S)-3-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-4-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-4-oxo-butanoic acid | 12.8 mmol, 6.3 g | NC1=C(C=C(C[C@@H](CC(=O)O)C(=O)N2CCC(CC2)N2CCN(CC2)C)C=C1C(F)(F)F)Cl | C22H30ClF3N4O3
reactant | 3-piperidin-4-yl-1,3,4,5-tetrahydro-1,3-benzodiazepin-2-one | 12.9 mmol, 3.16 g | N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O | C14H19N3O
reactant | TBTU | 14.5 mmol, 4.66 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | HOBt | 14.5 mmol, 1.96 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 68 mmol, 9.45 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
product | (S)-2-(4-amino-3-chloro-5-trifluoromethyl-benzyl) 1-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-4-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-yl]-butan-1,4-dione | NC1=C(C=C(C[C@H](C(=O)N2CCC(CC2)N2CCN(CC2)C)CC(=O)N2CCC(CC2)N2C(NC3=C(CC2)C=CC=C3)=O)C=C1C(F)(F)F)Cl | C36H47ClF3N7O3
